US06080866
Diethyl-(2-methoxy-phenoxy)malonate is dissolved in a solution of sodium in methanol. Thereafter 4-amidino-pyridine hydrochloride is added to obtain 5-(2-methoxy-phenoxy)-2-(pyridin-4-yl)-pyrimidin-4,6-diol (or a tautomeric derivative). This compound is heated with phosphorus oxychloride to yield 4,6-dichloro-5-(2-methoxy-phenoxy)-2-pyridin-4-yl)-pyrimidine which is boiled with peracetic acid to obtain 4-[4,6-dichloro-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-1-oxide. By reaction of this compound with 5-isopropyl-pyridine-2-sulfonamide potassium there is obtained 5-isopropyl-pyridine-2-sulfonic acid 6-chloro-5-(2-methoxy-phenoxy)-2-(1-oxy-pyridin-4-yl)-pyrimidin-4-yl amide which is added as a solution in dimethoxyethane to a solution of sodium in ethylene glycol. 5-Isopropyl-pyridine-2-sulfonic acid 6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-2-(1-oxy-pyridin-4-yl)-pyrimidin-4-yl amide is obtained which is heated with trimethylsilylcyanide and triethylamine in acetonitrile to obtain 5-isopropyl-pyridine-2-sulphonic acid 2-(2-cyano-pyridin-4-yl)-6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-pyrimidin-4-yl-amide. This is then heated with ammonium chloride and sodium azide in dimethyl formamide to yield 5-isopropyl-pyridine-2-sulfonic acid {6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazol-5-yl)-pyridin-4-yl]-pyrimidin-4-yl}-amide (see WO 96/19459).

reactant | Diethyl-(2-methoxy-phenoxy)malonate | C(C)OC(C(C(=O)OCC)OC1=C(C=CC=C1)OC)=O | C14H18O6
reactant | 4-amidino-pyridine hydrochloride | Cl.C(N)(=N)C1=CC=NC=C1
solvent | sodium | [Na] | Na
solvent | methanol | CO | CH4O
product | 5-(2-methoxy-phenoxy)-2-(pyridin-4-yl)-pyrimidin-4,6-diol | COC1=C(OC=2C(=NC(=NC2O)C2=CC=NC=C2)O)C=CC=C1 | C16H13N3O4
